US07402585B2
Sodium hydride (14.6 g, 365 mmol) was added at 0° C. to a solution of 1,3-propanediol (27.8 g, 365 mmol) in dimethylformamide (70 ml). 7-Fluoroquinazolin-4(3H)-one (10 g, 60.9 mmol) was added portionwise and the reaction mixture heated at 60° C., then at 110° C. for 3 hours. The reaction was cooled to 0° C., quenched with water (280 ml) and adjusted to pH 5.9. The resulting suspension was filtered, washed with water then ether and dried over phosphorus pentoxide to afford 7-(3-hydroxypropoxy)quinazolin-4(3H)-one as a white powder (12.41 g, 92% yield):

reactant | Sodium hydride | 365 mmol, 14.6 g | [H-].[Na+]
reactant | 1,3-propanediol | 365 mmol, 27.8 g | C(CCO)O | C3H8O2
reactant | 7-Fluoroquinazolin-4(3H)-one | 60.9 mmol, 10 g | FC1=CC=C2C(NC=NC2=C1)=O | C8H5FN2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 7-(3-hydroxypropoxy)quinazolin-4(3H)-one | 12.41 g, 92% yield | OCCCOC1=CC=C2C(NC=NC2=C1)=O | C11H12N2O3
